US03980788
A suspension of 0.30 g. of platinum oxide in 25 ml. of absolute ethanol was shaken under 35 psi of hydrogen for 1 hour. To this was added a solution of the 1-benzyl-3-methylaminopiperidine and 16 g. of 37 percent aqueous formaldehyde in 40 ml. of ethanol. The mixture was then shaken under ca. 50 psi of hydrogen until uptake ceased. Filtration and evaporation left an oil, which was dissolved in benzene and extracted with dilute hydrochloric acid. The extract was made strongly basic with sodium hydroxide and was extracted with methylene chloride. After drying, the solvent was evaporated, leaving 1-benzyl-3-dimethylaminopiperidine.

reactant | hydrogen | [H][H] | H2
reactant | 1-benzyl-3-methylaminopiperidine | C(C1=CC=CC=C1)N1CC(CCC1)NC | C13H20N2
reactant | formaldehyde | C=O | CH2O
catalyst | platinum oxide | [Pt]=O
solvent | ethanol | C(C)O | C2H6O
product | 1-benzyl-3-dimethylaminopiperidine | C(C1=CC=CC=C1)N1CC(CCC1)N(C)C | C14H22N2
